US07396844B1
Synthesis of methyl 2-acetylamino-3-[4-cyano-2-[2-[4-(1-t-butoxycarbonyl-4-piperidyloxy)benzoylamino]ethoxy]phenyl]acrylate
2.72 g (4.60 mmol) of N-[2-(5-cyano-2-iodophenoxy)ethyl]-4-(1-t-butoxycarbonyl-4-piperidyloxy)benzamide and 1.32 g (9.22 mmol) of methyl 2-acetaminoacrylate were dissolved in 80 ml of acetonitrile. 272 mg (1.21 mmol) of palladium (II) acetate, 630 mg (2.07 mmol) of tri-o-tolylphosphine and 1.71 g (9.23 mmol) of tributylamine were added to the solution, and they were heated under reflux for 3 days. The solvent was evaporated, and the residue was treated with ethyl acetate as the extractant in an ordinary manner to obtain the crude product, which was purified by the silica gel column chromatography to obtain the title compound.

reactant | N-[2-(5-cyano-2-iodophenoxy)ethyl]-4-(1-t-butoxycarbonyl-4-piperidyloxy)benzamide | 4.60 mmol, 2.72 g | C(#N)C=1C=CC(=C(OCCNC(C2=CC=C(C=C2)OC2CCN(CC2)C(=O)OC(C)(C)C)=O)C1)I | C26H30IN3O5
reactant | methyl 2-acetaminoacrylate | 9.22 mmol, 1.32 g | N(C(=O)C)C(C(=O)OC)=C | C6H9NO3
reactant | tri-o-tolylphosphine | 2.07 mmol, 630 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | tributylamine | 9.23 mmol, 1.71 g | C(CCC)N(CCCC)CCCC | C12H27N
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
catalyst | palladium (II) acetate | 1.21 mmol, 272 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl 2-acetylamino-3-[4-cyano-2-[2-[4-(1-t-butoxycarbonyl-4-piperidyloxy)benzoylamino]ethoxy]phenyl]acrylate | C(C)(=O)NC(C(=O)OC)=CC1=C(C=C(C=C1)C#N)OCCNC(C1=CC=C(C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C)=O | C32H38N4O8
